US08476261B2
47B) Preparation of Ethyl [1-(benzoylamino)cyclobutyl]acetate
H2SO4 (2.20 mL, 41.3 mmol) was slowly added to a mixture of ethyl 1-hydroxycyclobutylacetate (6.45 g, 40.8 mmol) and benzonitrile (40 mL, 0.392 mol) at room temperature. The mixture was stirred for 1 hour at room temperature, then for an additional hour at 80° C. The mixture was cooled in an ice-water bath, and 2N NaOH solution was added until the mixture reached pH=7. The mixture was extracted with ethyl acetate and the combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated in vacuo. Flash chromatography (AcOEt:Hexane=5:1) of the residue gave the title compound as a colorless solid (5.40 g, 51%). 1H-NMR (400 MHz, CDCl3) δ 1.22 (3H, t, J=7.3 Hz), 1.84-2.07 (2H, m), 2.22-2.32 (2H, m), 2.44-2.55 (2H, m), 3.05 (2H, s), 4.11 (2H, q, J=7.3 Hz), 6.73 (1H, s), 7.39-7.52 (3H, m), 7.72-7.79 (2H, m).

reactant | H2SO4 | 41.3 mmol, 2.20 mL | OS(=O)(=O)O | H2O4S
reactant | ethyl 1-hydroxycyclobutylacetate | 40.8 mmol, 6.45 g | OC1(CCC1)CC(=O)OCC | C8H14O3
reactant | benzonitrile | 0.392 mol, 40 mL | C(C1=CC=CC=C1)#N | C7H5N
reactant | NaOH | 2N | [OH-].[Na+]
product | Ethyl [1-(benzoylamino)cyclobutyl]acetate | 5.40 g, 51% | C(C1=CC=CC=C1)(=O)NC1(CCC1)CC(=O)OCC | C15H19NO3
